US07511033B2
4-(3-Bromo-phenyl)-8-(2-fluoro-phenyl)-1,3-dihydro-benzo[b][1,4]diazepin-2-one
) The title compound was prepared from the above described {3-[3-(3-bromo-phenyl)-3-oxo-propionylamino]-2′-fluoro-biphenyl-4-yl}-carbamic acid tert-butyl ester (2.15 g, 4.076 mmol, 90% purity) and TFA (15 mL) according to general procedure I step 2. Obtained as a light yellow solid (1.25 g, 75%). MS (ISP) 409.0 [(M+H)+] and 411.0 [(M+2+H)+].

reactant | {3-[3-(3-bromo-phenyl)-3-oxo-propionylamino]-2′-fluoro-biphenyl-4-yl}-carbamic acid tert-butyl ester | 4.076 mmol, 2.15 g | C(C)(C)(C)OC(NC1=C(C=C(C=C1)C1=C(C=CC=C1)F)NC(CC(=O)C1=CC(=CC=C1)Br)=O)=O | C26H24BrFN2O4
reactant | TFA | 15 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 4-(3-Bromo-phenyl)-8-(2-fluoro-phenyl)-1,3-dihydro-benzo[b][1,4]diazepin-2-one | BrC=1C=C(C=CC1)C1=NC2=C(NC(C1)=O)C=C(C=C2)C2=C(C=CC=C2)F | C21H14BrFN2O
